US05852023
6-Ethyl-5-iodo-4-(cis-4-phenylcyclohexylamino)pyrimidine
Prepared as in Example 1 from 4-chloro-5-iodo-6-ethylpyrimidine and cis-4-phenylcyclohexylamine.

reactant | 4-chloro-5-iodo-6-ethylpyrimidine | ClC1=NC=NC(=C1I)CC | C6H6ClIN2
reactant | cis-4-phenylcyclohexylamine | C1(=CC=CC=C1)[C@H]1CC[C@H](CC1)N | C12H17N
product | 6-Ethyl-5-iodo-4-(cis-4-phenylcyclohexylamino)pyrimidine | C(C)C1=C(C(=NC=N1)N[C@@H]1CC[C@@H](CC1)C1=CC=CC=C1)I | C18H22IN3
